US05705515
EXAMPLE 1 5-(1-Ethoxyvinyl)thiazole
A mixture of 3.28 g (20.0 mmol) of 5-bromothiazole (for synthesis see H. C. Beyerman, P. H. Berben, J. S. Bontekoe, Rec. Trav. Chim. 1954, 73, 325), 7.43 mL (22.0 mmol) of (1-ethoxyvinyl)tributyltin, and 284 mg (0.404 mmol) of PdCl2 (PPh3)2 in 40 mL of DMF was heated at 70° C. for 30 h. The reaction mixture was cooled to 0° C. and 40 mL of a solution of potassium fluoride in water and 40 mL of diethyl ether were added. After stirring for 40 min the precipitate was faltered off and the aqueous and organic phases separated. The aqueous phase was re-extracted with 4×40 mL of diethyl ether. The combined ether phases were washed with 2×75 mL of water, 1×100 mL of brine, dried (MgSO4) and the solvent removed in vacuo. Flash chromatography (silica gel, 20% ethyl acetate-hexanes) afforded 2.58 g (83%) of the title compound as a yellow oil: 1H NMR (400 MHz, CDCl3) δ8.65 (s, 1H), 7.80 (s, 1H), 4.61 (d, 1H, J=3 Hz), 4.24 (d, 1H, J=3 Hz), 3.91 (q, 2H, J=7 Hz), 13.9 (t, 3H, J=7 Hz).

reactant | 5-bromothiazole | 20.0 mmol, 3.28 g | BrC1=CN=CS1 | C3H2BrNS
reactant | (1-ethoxyvinyl)tributyltin | 22.0 mmol, 7.43 mL | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | potassium fluoride | [F-].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 5-(1-Ethoxyvinyl)thiazole | 2.58 g, 83% | C(C)OC(=C)C1=CN=CS1 | C7H9NOS
